US07273865B2
3-Methoxy-N-(7-methoxy-4-phenyl-thiazolo[5,4-c]pyridin-2-yl)-benzamide
From 3-methoxybenzoic acid, HATU and N-methylmorpholine in THF, then treatment with 7-methoxy-4-phenyl-thiazolo[5,4-c]pyridin-2-ylamine. ES-MS m/e (%): 392 (M+H+, 100).

reactant | 3-methoxybenzoic acid | COC=1C=C(C(=O)O)C=CC1 | C8H8O3
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N-methylmorpholine | CN1CCOCC1 | C5H11NO
reactant | 7-methoxy-4-phenyl-thiazolo[5,4-c]pyridin-2-ylamine | COC=1C2=C(C(=NC1)C1=CC=CC=C1)SC(=N2)N | C13H11N3OS
solvent | THF | C1CCOC1 | C4H8O
product | 3-Methoxy-N-(7-methoxy-4-phenyl-thiazolo[5,4-c]pyridin-2-yl)-benzamide | COC=1C=C(C(=O)NC=2SC=3C(=NC=C(C3N2)OC)C2=CC=CC=C2)C=CC1 | C21H17N3O3S
